US05877342
Preparation of 4-[4-(1-adamantyl)-3-methoxybenzoyloxy]benzoic acid
1.8 g (3.6 mmol) of benzyl 4-[4-(1-adamantyl)-3-methoxybenzoyloxy]benzoate and 50 ml of dioxane were introduced into a reactor. After flushing the reactor with nitrogen, 1 g of Pd-on-charcoal (10%) was introduced, followed by hydrogen at a pressure of 7.5 bar. The mixture was stirred at room temperature for 3 hours, the catalyst was filtered off and the filtrate was evaporated. The residue obtained was triturated from 40 ml of ethyl ether and filtered. 1.1 g (71%) of the expected acid, having a melting point of 273°-4° C., was recovered.

reactant | benzyl 4-[4-(1-adamantyl)-3-methoxybenzoyloxy]benzoate | 3.6 mmol, 1.8 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=O)OC3=CC=C(C(=O)OCC1=CC=CC=C1)C=C3)C=C2)OC | C32H32O5
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-[4-(1-adamantyl)-3-methoxybenzoyloxy]benzoic acid | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=O)OC3=CC=C(C(=O)O)C=C3)C=C2)OC | C25H26O5
